US07820699B2
63.1 Using general procedure E, (R)-3-aminomethyl-1-N-tert-butoxycarbonyl-pyrrolidine was coupled with 6-chloro-nicotinic acid to give (R)-3-{[(6-chloro-pyridine-3-carbonyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester. Yellow oil. MS 340.1 ([M+H]+)

reactant | (R)-3-aminomethyl-1-N-tert-butoxycarbonyl-pyrrolidine | NC[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | 6-chloro-nicotinic acid | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
product | (R)-3-{[(6-chloro-pyridine-3-carbonyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](CC1)CNC(=O)C=1C=NC(=CC1)Cl | C16H22ClN3O3
